US04992544
B. Ethylmalic acid monomethyl ester
The diisopropyl ethylmalate (diastereoisomeric mixture) prepared as described above is saponified in aqueous dioxane with potassium hydroxide at the reflux temperature. The diacid is recovered by passing the cooled reaction mixture over Dowex resin (sulfonic acid form) and evaporating the eluate.

reactant | diisopropyl ethylmalate | C(C)C(C(=O)OC(C)C)(O)CC(=O)OC(C)C | C12H22O5
reactant | potassium hydroxide | [OH-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethylmalic acid monomethyl ester | COC(C(O)(CC(=O)O)CC)=O | C7H12O5
